US04971982
2.1 g of 2,2-dimethyl-4-(3-pyridyl)-2H-1-benzopyran-6-carbonitrile were dissolved in 50 ml of ethyl acetate and shaken at room temperature under a hydrogen atmosphere with 50 mg of 10% palladium-on-charcoal for a total of 30 hours with several changes of catalyst The mixture was filtered and the filtrate was evaporated The residue was chromatographed on silica gel using ethyl acetate for the elution. 910 mg of 3,4-dihydro-2,2-dimethyl-4-(3-pyridyl)-2H-1-benzopyran-6-carbonitrile were obtained in the form of an oil.

reactant | 2,2-dimethyl-4-(3-pyridyl)-2H-1-benzopyran-6-carbonitrile | 2.1 g | CC1(OC2=C(C(=C1)C=1C=NC=CC1)C=C(C=C2)C#N)C | C17H14N2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-charcoal | 50 mg | [Pd] | Pd
product | 3,4-dihydro-2,2-dimethyl-4-(3-pyridyl)-2H-1-benzopyran-6-carbonitrile | 910 mg | CC1(OC2=C(C(C1)C=1C=NC=CC1)C=C(C=C2)C#N)C | C17H16N2O
